US08278441B2
5-((7aS)-2-(tert-Butoxycarbonylamino)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-7a-yl)-2-fluorophenyl trifluoromethanesulfonate
To a 0° C. mixture of tert-butyl (4aR,7aS)-7a-(4-fluoro-3-hydroxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-ylcarbamate (0.428 g, 1.17 mmol) and pyridine (0.148 g, 1.87 mmol) in dichloromethane (25 mL) is added trifluoromethanesulfonic anhydride (0.395 g, 1.40 mmol). The reaction is stirred at 0° C. for 45 min. The reaction is diluted with water and 1 N HCl (4 mL) and is extracted three times with CH2Cl2. The organic layer is dried over Na2SO4 and the solvent is removed under reduced pressure to give the title compound (0.633 g, 100%). ES/MS m/e: 499 (M+1).

reactant | tert-butyl (4aR,7aS)-7a-(4-fluoro-3-hydroxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-ylcarbamate | 1.17 mmol, 0.428 g | FC1=C(C=C(C=C1)[C@@]12N=C(SC[C@@H]1CCC2)NC(OC(C)(C)C)=O)O | C18H23FN2O3S
reactant | pyridine | 1.87 mmol, 0.148 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.40 mmol, 0.395 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | HCl | 1 N, 4 mL | Cl | ClH
product | 5-((7aS)-2-(tert-Butoxycarbonylamino)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-7a-yl)-2-fluorophenyl trifluoromethanesulfonate | 0.633 g, 100% | FC(S(=O)(=O)OC1=C(C=CC(=C1)[C@@]12N=C(SCC1CCC2)NC(=O)OC(C)(C)C)F)(F)F | C19H22F4N2O5S2
